US04017613
2,4,4-trichlorobutadienyl dimethyl phosphate (Z-form)
60 g of this 2,2,4,4-tetrachloro-but-3-enal in 100 ml of benzene were reacted with 45 g of trimethyl phosphite in 100 ml of benzene, while stirring, and at a temperature of 60 to 65° C over a period of 15 minutes, and subsequently heated under reflux for 1.5 hours. After the solvent had been removed, 81 g of crude product remained. This was distilled at 0.1 to 0.2 torr and yielded 65 g of product at 110 to 112° C. NMR-spectrum: δ(CH3O--) : 3.9 ppm, J = 12 Hz; δ(C=CH-C) : 6.68 ppm; δ(CH-O-P) : 7.4 ppm, J = 6 Hz.

reactant | 2,2,4,4-tetrachloro-but-3-enal | 60 g | ClC(C=O)(C=C(Cl)Cl)Cl | C4H2Cl4O
reactant | trimethyl phosphite | 45 g | P(OC)(OC)OC | C3H9O3P
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,4,4-trichlorobutadienyl dimethyl phosphate | 65 g | P(=O)(OC=C(C=C(Cl)Cl)Cl)(OC)OC | C6H8Cl3O4P
